US04981873
(b) Ethyl 8-bromo-2,2-dimethyl-6-thiaoctanoate
from ethyl 8-hydroxy-2,2-dimethyl-6-thiaoctanoate and methanesulphonyl chloride and subsequent reaction of the resultant methanesulphonyloxy compound with lithium bromide. Yield 62% of theory; colourless oil;

reactant | ethyl 8-hydroxy-2,2-dimethyl-6-thiaoctanoate | OCCSCCCC(C(=O)OCC)(C)C | C11H22O3S
reactant | methanesulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | lithium bromide | [Br-].[Li+]
product | Ethyl 8-bromo-2,2-dimethyl-6-thiaoctanoate | Yield 62% | BrCCSCCCC(C(=O)OCC)(C)C | C11H21BrO2S
